US03953604
To a suspensioin of sodium ethoxide, prepared from sodium (6.0 g) and ethanol (60 ml) in dry ether (400 ml) and dimethyl sulphoxide (50 ml), was added a suspension of 1-(3-acetyl-4 -hydroxyphenoxy- 2-hydroxy-3-(p-cyanophenoxy) propane (26.2 g) in diethyl oxalate (30 ml). The resulting suspension was heated under reflux for 2 hours, cooled, and poured onto ice (200 g). After acidification with a solution of acetic acid (24 ml) in water (160 ml), the ether layer was separated, and the aqueous layer extracted with ether (3 × 50 ml). The combined organic extracts were evaporated under reduced pressure to give a yellow solid. This was dissolved in ethanol (200 ml) containing hydrochloric acid (20 drops) and the solution heated under reflux for 1 hour. After cooling, the beige solid (20.0 g) was filtered off. Recrystallization from aqueous dioxane gave 1-(2-carbethoxychromon-6-yloxy)-2-hydroxy-3-(p-cyanophenoxy) propane (17.3 g) as pale yellow crystals, m.p. 150°-152° C.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 6.0 g | [Na] | Na
reactant | 3-acetyl-4 -hydroxyphenoxy- 2-hydroxy-3-(p-cyanophenoxy) propane | 26.2 g | C(C)(=O)C=1C=C(OCC(COC2=CC=C(C=C2)C#N)O)C=CC1O | C18H17NO5
reactant | ether | 400 ml | CCOCC | C4H10O
solvent | dimethyl sulphoxide | 50 ml | CS(=O)C | C2H6OS
solvent | diethyl oxalate | 30 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | hydrochloric acid | 20 drops | Cl | ClH
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 1-(2-carbethoxychromon-6-yloxy)-2-hydroxy-3-(p-cyanophenoxy) propane | 17.3 g | C(=O)(OCC)C=1OC2=CC=C(C=C2C(C1)=O)OCC(COC1=CC=C(C=C1)C#N)O | C22H19NO7
